US07268231B2
A suspension of 2-amino-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester (46.6 mg, 0.20 mmol), Boc2O (52.3 mg, 0.24 mmol) and DMAP (2.5 mg, 0.02 mmol) in acetonitrile (1.5 mL) was heated to reflux under argon for 1 hr. Cooled to r.t., the reaction mixture was concentrated and the residue was partitioned between EtOAc and water. The organic layer was dried over Na2SO4 and concentrated to give 2-tert-butoxycarbonylamino-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester as an oil (55.0 mg, 82.6%).

reactant | 2-amino-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester | 0.20 mmol, 46.6 mg | C(C1=CC=CC=C1)OC(=O)N1C(=NC(C1)=O)N | C11H11N3O3
reactant | Boc2O | 0.24 mmol, 52.3 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 0.02 mmol, 2.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | 2-tert-butoxycarbonylamino-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester | 55.0 mg, 82.6% | C(C1=CC=CC=C1)OC(=O)N1C(=NC(C1)=O)NC(=O)OC(C)(C)C | C16H19N3O5
